US06491731B1
Solid 4,4′-dinitro-2,2′-stilbenedisulfonic acid disodium salt (2550 parts) is dissolved in hot water to produce a nominal 8% w/w solution (7.8-8.2% expressed as 4,4′-dinitro-2,2′-stilbenedisulfonic acid). Then 2375 parts of 50% sodium hydroxide solution is added. The temperature of the solution is adjusted to 60-62° C. A self-condensation reaction is carried out in a pH range from about 11 to 13 and in the temperature range from 60 to 65° C. by the addition in equal increments over 2 hours of 700 parts of 93% paraformaldehyde. After the condensation is complete, the reaction mixture is then acidified with 90-96% sulfuric acid. For convenience half the reaction mass is fed to an extraction vessel containing methyl isobutyl ketone (12,850 parts) and triisooctylamine (11,600 parts) which is preheated to 55-60° C. The neutralized dye slurry is fed concurrently with concentrated sulfuric acid (1600 parts) to the extraction solvents with agitation. The vessel contents thus achieve a temperature of 65-80° C. After 15 minutes, the agitation is stopped and the phases separate immediately.

reactant | 4,4′-dinitro-2,2′-stilbenedisulfonic acid disodium salt | [Na+].[Na+].[N+](=O)([O-])C=1C=C(C(=CC1)C=CC=1C(=CC(=CC1)[N+](=O)[O-])S(=O)(=O)[O-])S(=O)(=O)[O-]
solvent | water | O | H2O
product | 4,4′-dinitro-2,2′-stilbenedisulfonic acid | [N+](=O)([O-])C=1C=C(C(=CC1)C=CC=1C(=CC(=CC1)[N+](=O)[O-])S(=O)(=O)O)S(=O)(=O)O | C14H10N2O10S2
